US05449785
A mixture of (2S,3R,4S,5S)-4-methoxy-5-methyl-2-[(Z)-1-nonenyl]tetrahydro-2H-pyran-3-ol (9.0 mg), N-(tert-butoxycarbonyl)glycine (17.5 mg), 4-dimethylamino pyridine (12.0 mg), and dicyclohexylcarbodiimide (21.0 mg) in dry dichloro-methane (0.5 ml) was stirred for 3 hours at room temperature. To the reaction mixture water was added, and the mixture was partitioned between water and dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification of the residue by preparative thin layer chromatography gave (2S,3R,4S,5S)-4-methoxy-5-methyl-2-[(Z)-1-nonenyl]tetrahydro-2H-pyran-3-yl N-(tert-butoxycarbonyl)glycinate (12.8 mg, y. 91%); EI-MS: m/z 427 (M+)

reactant | (2S,3R,4S,5S)-4-methoxy-5-methyl-2-[(Z)-1-nonenyl]tetrahydro-2H-pyran-3-ol | 9.0 mg | CO[C@@H]1[C@H]([C@@H](OC[C@@H]1C)\C=C/CCCCCCC)O | C16H30O3
reactant | N-(tert-butoxycarbonyl)glycine | 17.5 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | dicyclohexylcarbodiimide | 21.0 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | water | O | H2O
catalyst | 4-dimethylamino pyridine | 12.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloro-methane | 0.5 ml | ClCCl | CH2Cl2
product | (2S,3R,4S,5S)-4-methoxy-5-methyl-2-[(Z)-1-nonenyl]tetrahydro-2H-pyran-3-yl N-(tert-butoxycarbonyl)glycinate | 12.8 mg, 91% | C(C)(C)(C)OC(=O)NCC(=O)O[C@H]1[C@@H](OC[C@@H]([C@@H]1OC)C)\C=C/CCCCCCC | C23H41NO6
